US07772285B2
4.00 g of 2-amino-5-methylbenzoic acid was dissolved in 40 mL of 1,4-dioxane, to which 5.5 mL of triethylamine and 6.8 mL of diphenylphosphoryl azide were successively added, and this mixture was stirred for 1.5 hours while heating it under reflux. The reaction mixture, to which a mixture of ethyl acetate and water was added, was adjusted to pH 7 with 1M hydrochloric acid, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous sodium sulfate, and the solvent was distilled out under reduced pressure to yield 2.96 g of 5-methyl-1,3-dihydro-2H-benzimidazol-2-one as light yellow solid.

reactant | 2-amino-5-methylbenzoic acid | 4.00 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | triethylamine | 5.5 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | diphenylphosphoryl azide | 6.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | 5-methyl-1,3-dihydro-2H-benzimidazol-2-one | 2.96 g | CC1=CC2=C(NC(N2)=O)C=C1 | C8H8N2O
